US07417054B2
4-(2-Fluoro-phenyl)-2-methyl-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-[2,6]-naphthyridine
A solution of 4-(2-fluoro-phenyl)-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-[2,6]naphthyridine (50.2 mg, 0.136 mmol) in MeOH (5 mL) was treated with paraformaldehyde (62 mg). The mixture was heated at 55° C. for 1 h, cooled to 0° C., and was treated with NaBH4 (66 mg, 1.74 mmol). After 2 h at 0° C., the mixture was diluted with satd. aq. NaHCO3 and extracted with DCM. The organic layer was dried and concentrated. The residue was chromatographed (SiO2; 1-10% 2 M NH3 in MeOH/DCM) to give the title compound (20.4 mg, 39%) as an oil. MS (ESI): mass calcd. for C23H30FN3O, 383.24; m/z found, 384.5 [M+H]+. 1H NMR (CDCl3): 7.69 (s, 1H), 7.23-7.17 (m, 1H), 6.47 (s, 1H), 4.57-4.54 (m, 1H), 4.26 (t, J=6.7, 2H), 3.62 (d, J=15.9, 1H), 3.58 (d, J=15.9, 1H), 2.97 (dd, J=12.0, 5.1, 1H), 2.65 (dd, J=11.5, 7.5, 1H), 2.47-2.36 (m, 9H), 1.98-1.91 (m, 2H), 1.61-1.55 (m, 4H), 1.47-1.39 (m, 2H).

reactant | 4-(2-fluoro-phenyl)-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-[2,6]naphthyridine | 0.136 mmol, 50.2 mg | FC1=C(C=CC=C1)C1CNCC2=CC(=NC=C12)OCCCN1CCCCC1 | C22H28FN3O
reactant | paraformaldehyde | 62 mg | C=O | CH2O
reactant | NaBH4 | 1.74 mmol, 66 mg | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 4-(2-Fluoro-phenyl)-2-methyl-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-[2,6]-naphthyridine | 20.4 mg, 39% | FC1=C(C=CC=C1)C1CN(CC2=CC(=NC=C12)OCCCN1CCCCC1)C | C23H30FN3O
